US06166011
2-[2-(3,5-Dimethylmorpholino)ethyl]-1H-isoindole-1,3(2H)-dione
The title compound was prepared by a similar method to Preparation 6 from 3,5-dimethyl-1,4-oxazinan-4-ium chloride [see Preparation 10] and N(2-bromoethyl) phthalimide. The crude produce was purified by column chromatography on silica gel eluting with a solvent system of 8:1, by volume, hexane:ethyl acetate to afford 2-[2-(3,5-dimethylmorpholino)ethyl]-1H-isoindole-1,3(2H)-dione (455 mg) as an oil.

reactant | 3,5-dimethyl-1,4-oxazinan-4-ium chloride | [Cl-].CC1COCC([NH2+]1)C
reactant | N(2-bromoethyl) phthalimide | BrCCN1C(C=2C(C1=O)=CC=CC2)=O | C10H8BrNO2
product | 2-[2-(3,5-dimethylmorpholino)ethyl]-1H-isoindole-1,3(2H)-dione | 455 mg | CC1COCC(N1CCN1C(C2=CC=CC=C2C1=O)=O)C | C16H20N2O3
